US06051712
In an analogous manner to that described in Example 1 (g), by alkylating (3RS,4RS)-1-benzyl-4-(2-fluorophenyl)-piperidin-3-ol with 2-bromomethyinaphthalene there was obtained (3RS,4RS)-1-benzyl-4-(2-fluorophenyl)-3-(naphthalen-2-ylmethoxy)-piperidine as a yellow oil; MS: 284 (M-C11H9)+. By cleavage of the benzyl protecting group with 2,2,2-trichloroethyl chloroformate in an analogous manner to that described in Example 12 (c) there was obtained 2,2,2-trichloroethyl (3RS,4RS)-4-(2-fluorophenyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate as a yellow oil; MS: 509 (M)+.

reactant | (3RS,4RS)-1-benzyl-4-(2-fluorophenyl)-piperidin-3-ol | C(C1=CC=CC=C1)N1CC(C(CC1)C1=C(C=CC=C1)F)O | C18H20FNO
reactant | 2-bromomethyinaphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
product | (3RS,4RS)-1-benzyl-4-(2-fluorophenyl)-3-(naphthalen-2-ylmethoxy)-piperidine | C(C1=CC=CC=C1)N1CC(C(CC1)C1=C(C=CC=C1)F)OCC1=CC2=CC=CC=C2C=C1 | C29H28FNO
